US05663053
Diethyl-6-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)hexane phosphonate
A solution of 1,4,5-triphenyl-3-(6-bromoheptyl)-imidazol-2-one (1.43 g) and triethyl phosphite (2.49 g) in xylene (8 ml) was heated at reflux temperature for 65 hours. The solution was evaporated to an oil and chromatographed on silica gel (ethyl acetate/ethanol). The resulting oil was taken up in diethyl ether, filtered and evaporated to the titled compound as a dear oil (1.15 g; 72%) Found: C, 69.67; H, 7.13; N, 5.43%; C31H37N2O4P; Requires: C, 69.91; H, 7.00; N, 5.26%.

reactant | 1,4,5-triphenyl-3-(6-bromoheptyl)-imidazol-2-one | 1.43 g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC(C)Br)=O | C28H29BrN2O
reactant | triethyl phosphite | 2.49 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | xylene | 8 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Diethyl-6-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)hexane phosphonate | P(O)(O)=O.C(C)C(CCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | InChI=1S/C31H36N2O.H3O3P/c1-3-25(4-2)17-9-8-16-24-32-29(26-18-10-5-11-19-26)30(27-20-12-6-13-21-27)33(31(32)34)28-22-14-7-15-23-28;1-4(2)3/h5-7,10-15,18-23,25H,3-4,8-9,16-17,24H2,1-2H3;4H,(H2,1,2,3)
